US07547691B2
2-{5-Chloro-2-[2-(hexahydropyrrolo[3,4-c]pyrrol-2-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the synthetic method of 2-[5-chloro-2-(3-piperazin-1-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the title compound is synthesized from 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 5-(2-aminoethyl)-hexahydropyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester and isolated as a yellow solid. ES+(m/z) 483 (35Cl) and 485 (37Cl) [M+H].

reactant | 2-[5-chloro-2-(3-piperazin-1-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCNCC2
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | 5-(2-aminoethyl)-hexahydropyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CCN | C13H25N3O2
product | 2-{5-Chloro-2-[2-(hexahydropyrrolo[3,4-c]pyrrol-2-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCN2CC1CNCC1C2 | InChI=1S/C24H27ClN6OS.3ClH/c25-19-11-28-24(27-6-7-31-12-14-9-26-10-15(14)13-31)30-22(19)21-8-18-17(2-1-3-20(18)33-21)23(32)29-16-4-5-16;;;/h1-3,8,11,14-16,26H,4-7,9-10,12-13H2,(H,29,32)(H,27,28,30);3*1H
